US05116833
4[(Chloromethyl)thio]pyridine
A solution of 4-methylthiopyridine (2.28 g, 18.2 mmol), N-chlorosuccinimide (3.0 g, 23 mmol) and pyridine (2.9 mL, 3.0 mmol) in benzene (40 mL) was heated at 50°-60° C. for 3 h. The mixture was allowed to cool to room temperature. The solvent was decanted and the residue was rinsed with benzene (2×10 mL). The organic phases were combined and evaporated. The residue was passed through a pad of silica gel (40 g) to give the title material (1.35 g) contaminated with the starting material. The impure product was repurified on silica gel preparative plates (eluted with CH2Cl2 /CH3CN: 1/1) to give the pure title material (926 mg, 32%) as a yellow oil.

reactant | 4-methylthiopyridine | 18.2 mmol, 2.28 g | CSC1=CC=NC=C1 | C6H7NS
reactant | N-chlorosuccinimide | 23 mmol, 3.0 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | pyridine | 3.0 mmol, 2.9 mL | N1=CC=CC=C1 | C5H5N
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
product | 4[(Chloromethyl)thio]pyridine | 1.35 g | ClCSC1=CC=NC=C1 | C6H6ClNS
